US06599902B2
(R)-2-(pyrrolidine-1-carbonyl)-pyrrolidine-1-carboxylic acid benzyl ester was hydrogenated using Pd/C in methanol at rt for 20 hours to give pyrrolidin-1-yl-(R)-pyrrolidin-2-yl-methanone.

reactant | (R)-2-(pyrrolidine-1-carbonyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)N1CCCC1 | C17H22N2O3
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | pyrrolidin-1-yl-(R)-pyrrolidin-2-yl-methanone | N1(CCCC1)C(=O)[C@@H]1NCCC1 | C9H16N2O
